US04174316
The dibenzyl (S)-aspartate in anhydrous diethyl ether (200 ml) is cooled in an ice-bath under a nitrogen atomsphere. Trimethylchlorosilane (12.7 ml, 0.1 mole) is added to the stirred solution to give a white precipitate. Triethylamine (14.0 ml, 0.1 mole) is then added to the mixture. The cooling bath is removed and the mixture is stirred at room temperature (25° C.) for 2 hrs. The mixture is then filtered directly into a 3-neck, 1-liter, round bottom flask fitted with a sintered glass funnel, magnetic stirrer, and a vacuum-nitrogen inlet. This operation is carried out under a blanket of nitrogen, care being taken to exclude atmospheric moisture. The sintered glass funnel is replaced by a stopper and the ether is evaporated under vacuum with stirring to provide dibenzyl (S)-N-trimethylsilylaspartate (35.5 g, 0.092 mole) as a slightly hazy oil.

reactant | dibenzyl (S)-aspartate | N[C@@H](CC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C18H19NO4
reactant | Trimethylchlorosilane | 0.1 mole, 12.7 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | Triethylamine | 0.1 mole, 14.0 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | dibenzyl (S)-N-trimethylsilylaspartate | 0.092 mole, 35.5 g | C[Si](N[C@@H](CC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)(C)C | C21H27NO4Si
